US04734418
2-(4-Benzylpiperazino)-4-ethylaminopyrimidine-5-carboxylic acid
After refluxing for 1 hour a mixture of 106.4 g (0.29 mol) of ethyl 2-(4-benzylpiperazino)-4-ethylaminopyrimidine-5-carboxylate (the compound synthesized in Referential Example 64), 38.0 g (0.58 mol) of a 85% aqueous solution of potassium hydroxide, 100 ml of water and 400 ml of ethanol, ethanol was distilled off under reduced pressure. The residue was added with water and then neutralized with hydrochloric acid. The precipitated crystals were collected by filtration and were then dried to obtain 80.3 g of the above-identified compound (yield: 82%).

reactant | ethyl 2-(4-benzylpiperazino)-4-ethylaminopyrimidine-5-carboxylate | 0.29 mol, 106.4 g | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)NCC)C(=O)OCC | C20H27N5O2
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 100 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 400 ml | C(C)O | C2H6O
product | 2-(4-Benzylpiperazino)-4-ethylaminopyrimidine-5-carboxylic acid | 80.3 g, yield: 82% | C(C1=CC=CC=C1)N1CCN(CC1)C1=NC=C(C(=N1)NCC)C(=O)O | C18H23N5O2
